US08278335B2
Step 3. 2-Fluoro-4-(1-hydroxy-1-methylethyl)benzaldehyde
A solution of 2-[4-(diethoxymethyl)-3-fluorophenyl]propan-2-ol (25.6 g, 100 mmol) in acetone (50 mL) was added dropwise to aqueous HCl (6M, 50 mL) cooled with ice-water to keep the internal temperature less than 10° C. After addition, the mixture was stirred at room temperature for 6 hrs. The mixture was extracted twice with ethyl acetate. The combined organics were washed with saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate and concentrated to afford the title compound. 1H NMR (300 MHz, CDCl3): δ 10.23 (s, 1H), 7.81 (d, 1H), 7.34 (d, 1H), 7.30 (d, 1H), 2.01 (s, 1H), 1.49 (s, 61-1).

reactant | 2-[4-(diethoxymethyl)-3-fluorophenyl]propan-2-ol | 100 mmol, 25.6 g | C(C)OC(C1=C(C=C(C=C1)C(C)(C)O)F)OCC | C14H21FO3
reactant | HCl | 6M, 50 mL | Cl | ClH
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-Fluoro-4-(1-hydroxy-1-methylethyl)benzaldehyde | FC1=C(C=O)C=CC(=C1)C(C)(C)O | C10H11FO2
